US09328096B2
2,3-dichloro-6-(methoxymethyl)pyridine
3-chloroperbenzoic acid (80%, 4.83 g, 13.96 mmol) was added portion-wise to a solution of 5-chloro-2-(methoxymethyl)pyridine (Preparation 57, 2 g, 12.69 mmol) in DCM (50 mL) at 0° C. The reaction was stirred for 18 hours at room temperature. The reaction mixture was quenched with 2M aqueous sodium hydroxide (25 mL) and brine (25 mL) and stirred vigorously. The organic layer was collected, washed with 2M aqueous sodium hydroxide (2×10 mL), water (10 mL), dried over sodium sulfate and concentrated in vacuo. A portion of the residue (100 mg, 0.576 mmol) was stirred in phosphoryl chloride (2 mL) at 80° C. for 2 hours. The reaction was concentrated in vacuo and vigorously stirred in DCM (10 mL) and saturated aqueous sodium bicarbonate solution (10 mL) for 5 hours. The organic layer was collected dried over sodium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with DCM to afford the title compound (38 mg, 34%).

reactant | 3-chloroperbenzoic acid | 13.96 mmol, 4.83 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-chloro-2-(methoxymethyl)pyridine | 12.69 mmol, 2 g | ClC=1C=CC(=NC1)COC | C7H8ClNO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | phosphoryl chloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,3-dichloro-6-(methoxymethyl)pyridine | 38 mg, 34% | ClC1=NC(=CC=C1Cl)COC | C7H7Cl2NO
